US07732440B2
10-Methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxo-cyclopentyl)-ethyl]-5,5-dioxo-5,10-dihydrophenothiazin-3-carboxylic acid
260 mg of ethyl 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)ethyl]-5,5-dioxo-5,10-dihydrophenothiazine-3-carboxylate are suspended in 10 ml of methanol, and 1.64 ml of a 2 M NaOH solution are added. The reaction mixture is heated at the boil under reflux for one hour. The methanol is removed under reduced pressure and the reaction mixture is adjusted to pH 4 by addition of concentrated hydrochloric acid. The mixture is extracted three times with in each case 100 ml of ethyl acetate. The combined organic phases are dried over MgSO4 and then concentrated under reduced pressure. This gives 155 mg of 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)ethyl]-5,5-dioxo-5,10-dihydrophenothiazine-3-carboxylic acid.

reactant | ethyl 10-methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxocyclopentyl)ethyl]-5,5-dioxo-5,10-dihydrophenothiazine-3-carboxylate | 260 mg | CN1C2=CC(=CC=C2S(C=2C=C(C=CC12)C(=O)OCC)(=O)=O)C(CC1CC(CC1)=O)C(NC1=NN(C=C1)C)=O | C28H30N4O6S
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 10-Methyl-8-[1-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-2-(3-oxo-cyclopentyl)-ethyl]-5,5-dioxo-5,10-dihydrophenothiazin-3-carboxylic acid | CN1C2=CC(=CC=C2S(C=2C=C(C=CC12)C(=O)O)(=O)=O)C(CC1CC(CC1)=O)C(NC1=NN(C=C1)C)=O | C26H26N4O6S
